US06051673
Synthesis of a platinum-divinyltetramethyldisiloxane complex catalyst
3.0 kg chloroplatinic acid crystals (40% platinum content) and 15.0 kg isopropanol were placed in a 50-L reactor, and 6.0 kg sodium bicarbonate and 6.0 kg 1,3-divinyltetramethyldisiloxane were then added while stirring. The resulting suspension was heated while stirring. After reacting for 30 minutes at 65 to 75° C., the reaction mass was cooled and the solids were filtered off to give 22.0 kg of an isopropanol solution of platinum-divinyltetramethyldisiloxane complex catalyst. The platinum content was 4.1% as measured by x-ray fluorescence analysis, and the 1,3-divinyltetramethyldisiloxane content as measured by gas chromatography was 9.4%.

reactant | chloroplatinic acid | 3.0 kg | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
reactant | sodium bicarbonate | 6.0 kg | C([O-])(O)=O.[Na+]
reactant | 1,3-divinyltetramethyldisiloxane | 6.0 kg | C(=C)[Si](O[Si](C=C)(C)C)(C)C | C8H18OSi2
reactant | platinum | [Pt] | Pt
solvent | isopropanol | 15.0 kg | C(C)(C)O | C3H8O
product | platinum divinyltetramethyldisiloxane | [Pt].C(=C)[Si](O[Si](C)(C)C)(C)C=C | InChI=1S/C8H18OSi2.Pt/c1-7-11(6,8-2)9-10(3,4)5;/h7-8H,1-2H2,3-6H3;
